US08012976B2
Ethyl 7-fluoro-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of (E)-4-(benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one (1.25 g, 4.9 mmol), anhydrous Na2SO3 (1.24 g, 9.82 mmol), anhydrous Na2SO4 (2 g, 14.7 mmol) and 1-methyl-1H-1,2,4-triazole-5-carbaldehyde (900 mg, 8.1 mmol) in ethyl propionate (50 mL) was added EtONa [(sodium 316 mg, 13.8 mmol) in 25 mL ethanol] at 40° C., then the mixture was stirred at 40° C. for 3 hr. The resulting mixture was evaporated under reduced pressure, extracted with ethyl acetate (100 mL×4) and concentrated to dryness. The crude product was purified by column chromatography (silica gel, dichloromethane:methanol=200:1 to 50:1) to obtain the title compound as a green solid (190 mg, yield 10%). LC-MS (ESI) m/z: 395 (M+1)+.

reactant | (E)-4-(benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one | 4.9 mmol, 1.25 g | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC(=C1)F)=O | C15H10FNO2
reactant | Na2SO3 | 9.82 mmol, 1.24 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | Na2SO4 | 14.7 mmol, 2 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | 1-methyl-1H-1,2,4-triazole-5-carbaldehyde | 8.1 mmol, 900 mg | CN1N=CN=C1C=O | C4H5N3O
reactant | EtONa | 13.8 mmol, 25 mL, 316 mg | CC[O-].[Na+]
solvent | ethyl propionate | 50 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 7-fluoro-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 190 mg, yield 10% | FC=1C=C(C=2C(C(C(NC2C1)C1=CC=CC=C1)C1=NC=NN1C)=O)C(=O)OCC | C21H19FN4O3
